US09029560B2
Preparation of (Z)-1-(3-(2-ethyl-5-methylphenyl)-4-methylthiazolidin-2-yl idene)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea (FB55)
3-(4-(2-Isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C34a)(0.16 g, 0.42 mmol), 1-(2-ethyl-5-methylphenyl)thiourea (CA41) (0.081 g, 0.42 mmol), and cesium carbonate (0.13 g, 0.39 mmol) in acetonitrile (1.9 mL) was stirred at room temperature for 3 hours. The reaction was diluted with butanone (2 mL) and potassium carbonate (0.12 g, 0.83 mmol) and 1,2-dibromopropane (0.090 mL, 0.83 mmol) were added. The reaction was heated to 60° for 6 hours. The reaction was diluted with water and extracted with dichloromethane (2×) and the organic layers were filtered through a phase separator and concentrated. Purification by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent provided the title compound as a yellow oil (0.034 g, 13%).

reactant | 3-(4-(2-Isocyanatoethyl)phenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 0.42 mmol, 0.16 g | N(=C=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C18H13F3N4O2
reactant | 1-(2-ethyl-5-methylphenyl)thiourea | 0.42 mmol, 0.081 g | C(C)C1=C(C=C(C=C1)C)NC(=S)N | C10H14N2S
reactant | cesium carbonate | 0.39 mmol, 0.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium carbonate | 0.83 mmol, 0.12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromopropane | 0.83 mmol, 0.090 mL | BrCC(C)Br | C3H6Br2
solvent | acetonitrile | 1.9 mL | C(C)#N | C2H3N
solvent | butanone | 2 mL | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | (Z)-1-(3-(2-ethyl-5-methylphenyl)-4-methylthiazolidin-2-yl idene)-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea | 0.034 g, 13% | C(C)C1=C(C=C(C=C1)C)N1/C(/SCC1C)=N/C(=O)NCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C31H31F3N6O2S
